US08629168B2
a) 4-(7-Bromo-benzooxazol-2-ylamino)-2,N,N-trimethyl-benzamide
To a solution of 0.49 g (2.01 mmol) 7-bromo-2-methylsulfanyl-benzooxazole in 30 ml dichloromethane, 3-chloroperbenzoic acid (0.494 g, 2.01 mmol) is added. This mixture is stirred for 1 h at room temperature. Then, 0.325 g (1.82 mmol) 4-amino-2,N,N-trimethyl-benzamide is added and the reaction mixture is heated to 40° C. with stirring continued for 20 h. The reaction mixture is concentrated in vacuo and the residue is purified by chromatography (silicagel, hexane:EtOAc=1:1=>1:4) to afford the title compound as an off-white crystalline solid.

reactant | 7-bromo-2-methylsulfanyl-benzooxazole | 2.01 mmol, 0.49 g | BrC1=CC=CC=2N=C(OC21)SC | C8H6BrNOS
reactant | 3-chloroperbenzoic acid | 2.01 mmol, 0.494 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-amino-2,N,N-trimethyl-benzamide | 1.82 mmol, 0.325 g | NC1=CC(=C(C(=O)N(C)C)C=C1)C | C10H14N2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(7-Bromo-benzooxazol-2-ylamino)-2,N,N-trimethyl-benzamide | BrC1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=O)N(C)C)C=C2)C | C17H16BrN3O2
